US07005123B1
A solution of 2.1 ml ethanolamine (10 mmole) in a mixture of dioxane (20 ml), water (10 ml) and 1 N NaOH (10 ml) is cooled in an ice-water bath. 2.4 g Di-tert-butyl dicarbonate (11 mmole) is added with stirring and the reaction proceeds for 1/2 hour. The solution is concentrated under vacuum, cooled in an ice-water bath, covered with a layer of ethyl acetate (30 ml) and acidified with a dilute solution of KHSO4 to pH 2-3. The aqueous phase is extracted with ethyl acetate. The ethyl acetate extracts are dried over anhydrous MgSO4 and evaporated under vacuum, yielding 95% terbutoxycarbonyl aminoethanol, the structure of which is confirmed by 1H NMR (CDCl3) analysis.

reactant | ethanolamine | 10 mmole, 2.1 ml | C(O)CN | C2H7NO
reactant | water | 10 ml | O | H2O
reactant | NaOH | 1 N, 10 ml | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 11 mmole, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | terbutoxycarbonyl aminoethanol | 95% | C(C)(C)(C)OC(=O)C(C)(O)N | C7H15NO3
